US06143764
3-Fluorophenyl 4-methoxyphenyl ketone
To commercially available nitromethane (5 ml) were added commercially available anisole (541 mg), commercially available 3-fluorobenzoyl chloride (793 mg) and commercially available scandium(III) trifluoromethanesulfonate (49 mg), and the admixture was stirred at 60° C. for 3 days. The reaction mixture was partitioned between water and chloroform, and the chloroform layer was then dried with anhydrous magnesium sulfate. After removing the solvent by reduced-pressure distillation, the resulting residue was purified by chromatography on silica gel eluting with hexane/acetone to obtain 585 mg of the title compound (yield: 51%).

reactant | anisole | 541 mg | C1(=CC=CC=C1)OC | C7H8O
reactant | 3-fluorobenzoyl chloride | 793 mg | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
catalyst | scandium(III) trifluoromethanesulfonate | 49 mg | FC(S(=O)(=O)[O-])(F)F.[Sc+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
solvent | nitromethane | 5 ml | [N+](=O)([O-])C | CH3NO2
product | 3-Fluorophenyl 4-methoxyphenyl ketone | 585 mg, yield: 51% | COC1=CC=C(C=C1)C(=O)C1=CC(=CC=C1)F | C14H11FO2
